US08614206B2
A solution of benzyl 4-azido-5-fluoroazepane-1-carboxylate (0.5 g, 1.71 mmol) in THF/water (10 mL/2 mL) was treated with triphenylphosphine (0.45 g, 1.71 mmol) and the mixture was heated at 60° C. for 24 hr. The mixture was partitioned between EtOAc (100 mL) and water (20 mL) and washed with brine (20 mL). The organic layer was separated, dried over MgSO4, and concentrated under reduced pressure to give a colourless oil. This oil was triturated in Et2O, the resulting solid was filtered off, washed with Et2O and the filtrate concentrated under reduced pressure to give a colourless oil. The reaction was repeated on half the scale and the combined batches were dissolved in dry DCM (20 mL) and treated with di-tert-butyl dicarbonate (1.1 g, 5.11 mmol) and NEt3 (1.1 mL, 7.67 mmol). The mixture was stirred at room temperature for 18 hr. Water was added (10 mL) and the mixture was extracted with DCM (100 mL). The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (40% EtOAc/isohexane) gave benzyl 4-(tert-butoxycarbonylamino)-5-fluoroazepane-1-carboxylate as a mixture of syn and anti isomers as a colourless oil (0.55 g).

reactant | benzyl 4-azido-5-fluoroazepane-1-carboxylate | 1.71 mmol, 0.5 g | N(=[N+]=[N-])C1CCN(CCC1F)C(=O)OCC1=CC=CC=C1 | C14H17FN4O2
reactant | triphenylphosphine | 1.71 mmol, 0.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl dicarbonate | 5.11 mmol, 1.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NEt3 | 7.67 mmol, 1.1 mL | CCN(CC)CC | C6H15N
solvent | THF water | 10 mL | C1CCOC1.O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | benzyl 4-(tert-butoxycarbonylamino)-5-fluoroazepane-1-carboxylate | C(C)(C)(C)OC(=O)NC1CCN(CCC1F)C(=O)OCC1=CC=CC=C1 | C19H27FN2O4
